US07534797B2
A round bottom flask, charged with carbonyldiimidazole (252.2 mg, 1.55 mmol) and 4-methoxy-cyclohexanecarboxylic acid (mixture of cis/trans isomers) (242.9 mg, 1.54 mmol) was evacuated and filled with nitrogen. THF (15 mL) was added and the reaction mixture was stirred at 60° C. for 16 h. (3-Chloropyrazin-2-yl)(2-phenylquinolin-7-yl)methylamine hydrochloride salt (500 mg, 1.10 mmol) was then added and stirring was continued at 60° C. for another 20 h. After cooled to rt, the reaction mixture was diluted with 20 mL of EtOAc and washed with sat. NaHCO3 (3×30 mL) followed by brine (3×30 mL). The organic phase was dried over Na2SO4, filtered, concentrated under reduced pressure, and purified by silica gel chromatography (60% EtOAc in hexane 100% EtOAc). N-[(3-Chloropyrazin-2-yl)(2-phenyl-quinolin-7-yl)-methyl]-4-methoxycyclohexanecarboxamide was obtained as a yellow solid. To a solution of N-[(3-chloropyrazin-2-yl)(2-phenyl-quinolin-7-yl)-methyl]-4-methoxycyclohexanecarboxamide (440 mg, 0.91 mmol) in acetonitrile (20 mL) was added POCl3 (0.17 mL, 1.69 mmol) and DMF (0.3 mL). This mixture was heated to 55° C. under N2 for 2 h, concentrated under reduced pressure, and quenched with 2N NH3 in 2-propanol to pH 9. 2-Propanol was removed under reduced pressure and the residue was dissolved in dichloromethane (50 mL) and water (30 mL). Layers were separated and the organic phase was washed with brine and dried over Na2SO4, filtered, concentrated under reduced pressure, and purified by silica gel chromatography (2% 6% CH3CN in dichloromethane) to afford the individual cis-isomer and trans-isomers:

reactant | carbonyldiimidazole | 1.55 mmol, 252.2 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-methoxy-cyclohexanecarboxylic acid | 1.54 mmol, 242.9 mg | COC1CCC(CC1)C(=O)O | C8H14O3
reactant | (3-Chloropyrazin-2-yl)(2-phenylquinolin-7-yl)methylamine hydrochloride salt | 1.10 mmol, 500 mg | Cl.ClC=1C(=NC=CN1)NCC1=CC=C2C=CC(=NC2=C1)C1=CC=CC=C1
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | N-[(3-Chloropyrazin-2-yl)(2-phenyl-quinolin-7-yl)-methyl]-4-methoxycyclohexanecarboxamide | ClC=1C(=NC=CN1)C(NC(=O)C1CCC(CC1)OC)C1=CC=C2C=CC(=NC2=C1)C1=CC=CC=C1 | C28H27ClN4O2
